US07115611B2
C] 2-Methyl-2-{2-methyl-4-[6-(4-trifluoromethyl-phenyl)-pyridazin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester
0.170 g (0.669 mmol) of the above prepared [6-(4-trifluoromethyl-phenyl)-pyridazin-3-yl]-methanol and 0.163 g (0.684 mmol) of 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) were dissolved in 8 ml of abs. THF and treated successively at 0° C. with 0.162 g (0.800 mmol) of tributylphosphine and 0.139 g (0.804 mmol) of N,N,N′,N′-tetramethylazodicarboxamide. The cooling bath was then removed and stirring continued for one night. The reaction mixture was then poured onto crashed ice, extracted twice with AcOEt, washed with water, and dried over sodium sulfate. Evaporation of the solvents i. V., followed by flash chromatography (SiO2, hexane/AcOEt=7/3) yielded, after recrystallisation from hexane/AcOEt, 0.208 g of a colorless solid.

reactant | [6-(4-trifluoromethyl-phenyl)-pyridazin-3-yl]-methanol | FC(C1=CC=C(C=C1)C1=CC=C(N=N1)CO)(F)F | C12H9F3N2O
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | 0.684 mmol, 0.163 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
reactant | tributylphosphine | 0.800 mmol, 0.162 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethylazodicarboxamide | 0.804 mmol, 0.139 g | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-Methyl-2-{2-methyl-4-[6-(4-trifluoromethyl-phenyl)-pyridazin-3-ylmethoxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OCC=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C25H25F3N2O4
